US04595753
Preparation of Trimethylsilylpropyl Diphenyl Phosphine
A mixture of 22.8 g (0.2 mole) allyl trimethyl silane and 37.2 g (0.2 mole) diphenyl phosphine was reacted for 158 hours in the manner described in Example 1. A subsequent fractional distillation, yielded the desired pure adduct as a clear, colorless liquid. The distillation yield was 50%. The product had a boiling point of 150° C. at 0.10 mm.

reactant | allyl trimethyl silane | 0.2 mole, 22.8 g | C(C=C)[Si](C)(C)C | C6H14Si
reactant | diphenyl phosphine | 0.2 mole, 37.2 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | Trimethylsilylpropyl Diphenyl Phosphine | yield was 50% | C[Si](C)(C)CCCP(C1=CC=CC=C1)C1=CC=CC=C1 | C18H25PSi
